US04477553
(2-Methylresorcinol-acetaldehyde resin)
To a solution of 621 g. of 2-methylresorcinol in 1 l. of ethanol were added 209 g. of acetaldehyde and 0.5 ml. of 35% conc. hydrochloric acid as a catalyst. The resulting mixture was heated with stirring in an oil bath and, when the reaction mixture began to boil under reflux through exothermic reaction, heating was reduced and then heating under reflux was continued as it was for further 90 minutes. After completion of the reaction, the reaction mixture was poured into 5 l. of a cold water with stirring to give a pale brown powdery resin.

reactant | 2-methylresorcinol | CC1=C(O)C=CC=C1O | C7H8O2
reactant | ethanol | C(C)O | C2H6O
reactant | acetaldehyde | C(C)=O | C2H4O
catalyst | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 2-Methylresorcinol-acetaldehyde | CC1(C(O)C=CC=C1O)CC=O | C9H12O3
